US06492416B1
To a stirred solution of 100 mg of 5-{4-(aminosulfonyl)phenyl}-2,2-dimethyl-4-iodo-3(2H)-furanone dissolved in 15 ml toluene and 5 ml ethanol, were added 30 mg of tetrakis(triphenylphosphine)palladium(0), 5 ml of 2 M aqueous sodium carbonate, and 100 mg of 3-(trifluoromethyl)benzeneboronic acid. Then the mixture was stirred at 95° C. for 24 hours. The reaction mixture was purified according to a procedure similar to Step 4 of Example 22 to yield 35 mg of 5-{4-(aminosulfonyl)phenyl}2,2-dimethyl-4-{3-(trifluoromethyl)phenyl}-3(2H)-furanone. mp: 129-130° C. NMR: δ1.59 (s, 6H), 4.93 (br, s, 2H), 7.48 (m, 2H), 7.59 (m, 2H), 7.76 (d, J=8.7 Hz, 2H), 7.93 (d, J=9.0 Hz, 2H). IR (cm−1): 3343, 3265, 1691, 1593, 1329, 1262.

reactant | 5-{4-(aminosulfonyl)phenyl}-2,2-dimethyl-4-iodo-3(2H)-furanone | 100 mg | NS(=O)(=O)C1=CC=C(C=C1)C1=C(C(C(O1)(C)C)=O)I | C12H12INO4S
reactant | sodium carbonate | 2 M, 5 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | 3-(trifluoromethyl)benzeneboronic acid | 100 mg | FC(C=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O2
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 5 ml | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 30 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-{4-(aminosulfonyl)phenyl}2,2-dimethyl-4-{3-(trifluoromethyl)phenyl}-3(2H)-furanone | 35 mg | NS(=O)(=O)C1=CC=C(C=C1)C1=C(C(C(O1)(C)C)=O)C1=CC(=CC=C1)C(F)(F)F | C19H16F3NO4S
